US08003649B2
A solution of 1-[3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperidin-4-ol (150 mg, 0.52 mmol) and sodium hydride (60% dispersion in oil, 22.98 mg, 0.57 mmol) in DMF (5 mL) was stirred for 30 minutes at ambient temperature under nitrogen. 5-Chloropicolinonitrile (80 mg, 0.57 mmol) was added to the reaction mixture. The resulting solution was stirred at 50° C. for 18 hours. The reaction mixture was diluted with a few drops of MeOH. The crude product was purified by preparative HPLC (Waters XBridge Prep C18 OBD column, 5μ silica, 19 mm diameter, 100 mm length), using decreasingly polar mixtures of water (containing 1% ammonia) and MeCN as eluents. Fractions containing the desired compound were evaporated to dryness to afford 5-[[1-[3-(trifluoromethyl)[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperidin-4-yl]oxy]pyridine-2-carbonitrile (55.0 mg, 27%) as a solid.

reactant | 1-[3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperidin-4-ol | 0.52 mmol, 150 mg | FC(C1=NN=C2N1N=C(C=C2)N2CCC(CC2)O)(F)F | C11H12F3N5O
reactant | sodium hydride | 0.57 mmol, 22.98 mg | [H-].[Na+]
reactant | 5-Chloropicolinonitrile | 0.57 mmol, 80 mg | ClC=1C=CC(=NC1)C#N | C6H3ClN2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
catalyst | MeOH | a few drops | CO | CH4O
product | 5-[[1-[3-(trifluoromethyl)[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperidin-4-yl]oxy]pyridine-2-carbonitrile | 55.0 mg, 27% | FC(C1=NN=C2N1N=C(C=C2)N2CCC(CC2)OC=2C=CC(=NC2)C#N)(F)F | C17H14F3N7O
